US08008279B2
(1R,2R)-N-(1-cyanocyclopropyl)-2-(6-(2-morpholinoethoxy)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-2-carbonyl)cyclohexanecarboxamide
Following on from Example 34, 4-(2-Chloroethyl)morpholine hydrochloride (90 mg, 0.48 mmol) was added to (1R,2R)-N-(1-cyanocyclopropyl)-2-(6-hydroxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-2-carbonyl)cyclohexanecarboxamide (131 mg, 0.32 mmol) and potassium carbonate (134 mg, 0.97 mmol) in DMF (5 ml) at 25° C. under air. The resulting solution was stirred at room temperature for 45 hours, to yield after purification a cream solid. (4.00 mg, 2.4%).

reactant | 4-(2-Chloroethyl)morpholine hydrochloride | 0.48 mmol, 90 mg | Cl.ClCCN1CCOCC1
reactant | (1R,2R)-N-(1-cyanocyclopropyl)-2-(6-hydroxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-2-carbonyl)cyclohexanecarboxamide | 0.32 mmol, 131 mg | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CCCC1)C(=O)N1CC2=C(NC=3C(=CC=CC23)O)CC1 | C23H26N4O3
reactant | potassium carbonate | 0.97 mmol, 134 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (1R,2R)-N-(1-cyanocyclopropyl)-2-(6-(2-morpholinoethoxy)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-2-carbonyl)cyclohexanecarboxamide | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CCCC1)C(=O)N1CC2=C(NC=3C(=CC=CC23)OCCN2CCOCC2)CC1 | C29H37N5O4
